US05932595
To a solution of (R)-2-amino-N-tert-butoxy-3-(4-phenoxyphenylsulfonyl)-propionamide (1.5 g) in methylene chloride (20 ml) and pyridine (1.2 ml) was added dimethylsulfamoyl chloride (1 ml), and the mixture stirred overnight at room temperature. The mixture was partitioned between methylene chloride and water, and after the organic layer was dried over magnesium sulfate, solvent was removed under reduced pressure. The residue was chromatographed on silica gel, eluting with 0-45% ethyl acetate/hexane, to give (R)-N-tert-butoxy-2-dimethylaminosulfonamido-3-(4-phenoxyphenylsulfonyl)-propionamide (1.6 g).

reactant | (R)-2-amino-N-tert-butoxy-3-(4-phenoxyphenylsulfonyl)-propionamide | 1.5 g | N[C@H](C(=O)NOC(C)(C)C)CS(=O)(=O)C1=CC=C(C=C1)OC1=CC=CC=C1 | C19H24N2O5S
reactant | dimethylsulfamoyl chloride | 1 ml | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 1.2 ml | N1=CC=CC=C1 | C5H5N
product | (R)-N-tert-butoxy-2-dimethylaminosulfonamido-3-(4-phenoxyphenylsulfonyl)-propionamide | 1.6 g | C(C)(C)(C)ONC([C@H](CS(=O)(=O)C1=CC=C(C=C1)OC1=CC=CC=C1)NS(=O)(=O)N(C)C)=O | C21H29N3O7S2
